US04968697
A mixture of 3 g of p-hydroxyphenylacetonitrile, 3.6 ml of t-butyl bromoacetate, 6.5 g of potassium carbonate in 45 ml of dimethylformamide is stirred at room temperature for 16 hours. After dilution with water the product is extracted with ether. The ethyl layer is washed with 1N sodium hydroxide, dried over magnesium sulfate and the solvent removed in vacuo to yield p-(t-butoxycarbonylmethoxy)-phenylacetonitrile which is reduced to p-(t-butoxycarbonylmethoxy)-2-phenethylamine with sodium borohydride/cobalt chloride as described for the starting material under (g).

reactant | p-hydroxyphenylacetonitrile | 3 g | OC1=CC=C(C=C1)CC#N | C8H7NO
reactant | t-butyl bromoacetate | 3.6 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 6.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | p-(t-butoxycarbonylmethoxy)-phenylacetonitrile | C(C)(C)(C)OC(=O)COC1=CC=C(C=C1)CC#N | C14H17NO3
